US04628118
30 g of 5,5-dichloro-3,3-dimethylpentanoic acid and 18 g of NaOH, dissolved in 20 ml of water, are metered simultaneously into 60 ml of water while the pH is monitored, the metering being carried out at a rate such that the pH is 9-10 during the reaction. As soon as the pH value remains constant, the reaction is complete. The reaction mixture is brought to pH 3 with hydrochloric acid, and is extracted with dichloromethane. 20.9 g of 4-chloro-3,3-dimethyl-5-oxo-pentanoic acid of boiling point 110°-115° C./0.09 are obtained.

reactant | 5,5-dichloro-3,3-dimethylpentanoic acid | 30 g | ClC(CC(CC(=O)O)(C)C)Cl | C7H12Cl2O2
reactant | NaOH | 18 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 4-chloro-3,3-dimethyl-5-oxo-pentanoic acid | 20.9 g | ClC(C(CC(=O)O)(C)C)C=O | C7H11ClO3
